US04162258
25 ml of DMSO, 35 ml of benzene, 25 ml of isopropyl alcohol, 3.1 g (25 mM) of CP, 2.4 g (30 mM) of 50% aqueous sodium hydroxide and 5 ml of water were added to 6.9 g (31.25 mM) of trimethylsulfoxonium iodide and the reaction was carried out at room temperature for 5 hours. Then, the treatments were carried out as described in Example 8. 2.6 g (76% yield) of crude product were produced, from which1.45 g (42 % yield) of sabina ketone were obtained by distillation.

reactant | DMSO | 25 ml | CS(=O)C | C2H6OS
reactant | benzene | 35 ml | C1=CC=CC=C1 | C6H6
reactant | sodium hydroxide | 30 mM, 2.4 g | [OH-].[Na+]
reactant | trimethylsulfoxonium iodide | 31.25 mM, 6.9 g | [I-].C[S+](=O)(C)C
reactant | isopropyl alcohol | 25 ml | C(C)(C)O | C3H8O
solvent | water | 5 ml | O | H2O
product | sabina ketone | 45 g, 42 % yield | CC(C)C12CCC(=O)C1C2 | C9H14O
